US08445510B2
1-{[(4S)-2,2-Dimethyl-1,3-dioxolan-4-yl]methyl}-5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole
To a solution of 1-((S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-4-iodo-5-methyl-1H-pyrazole (55.0 mg, 0.171 mmol) in THF (1 mL, 20 mmol) at rt was added 1.3 M of isopropylmagnesium chloride in THF (0.53 mL, 0.68 mmol), and the mixture was stirred for 1 h. The reaction was quenched with 2-methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.14 mL, 0.85 mmol) and allowed to stir at rt for 1 h. Sat. NH4Cl was added, and the organic solvent was removed in vacuo. The material was extracted with DCM and water. The organic layer was purified via column chromatography, eluting with 5-10% EtOAc/hexanes. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a white solid. MS (ES+): m/z=322.21/323.20/324.20 (50/100/50) [MH+]. HPLC: tR=1.49 min (polar—3 min, UPLC-ACQUITY).

reactant | 1-((S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-4-iodo-5-methyl-1H-pyrazole | 0.171 mmol, 55.0 mg | CC1(OC[C@@H](O1)CN1N=CC(=C1C)I)C | C10H15IN2O2
reactant | THF | 20 mmol, 1 mL | C1CCOC1 | C4H8O
reactant | isopropylmagnesium chloride | 1.3 M | C(C)(C)[Mg]Cl
reactant | THF | 0.68 mmol, 0.53 mL | C1CCOC1 | C4H8O
reactant | 2-methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.85 mmol, 0.14 mL | COB1OC(C(O1)(C)C)(C)C | C7H15BO3
reactant | NH4Cl | [NH4+].[Cl-]
product | 1-{[(4S)-2,2-Dimethyl-1,3-dioxolan-4-yl]methyl}-5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CC1(OC[C@@H](O1)CN1N=CC(=C1C)B1OC(C(O1)(C)C)(C)C)C | C16H27BN2O4
